US04629781
Deglucoteicoplanin from teicoplanin complex
10 g of teicoplanin complex (i.e. the antibiotic complex containing teichomycin factors A1, A2 and A3, as obtained by fermentation of strain ATCC 31121 according to U.S. Pat. No. 4,239,751; the water content determined by Karl-Fischer method is 10.5% by weight) is suspended in 100 ml of 0.5 N hydrogen chloride solution in 1,1,1,3,3,3-hexafluoro-2-propanol and the suspension is heated at 70° C. with stirring while continuously bubbling anhydrous hydrogen chloride for 20 hours. Then the reaction mixture is worked up as in Example 11 yielding 3.8 g of substantially pure deglucoteicoplanin. From 0.8 g of this sample are obtained 0.5 g of crystalline pure deglucoteicoplanin by employing the procedure described in the last part of Example 1.

reactant | teichomycin | CCCCCCCCCC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1OC2=C3C=C4C=C2OC5=C(C=C(C=C5)[C@H]([C@H]6C(=O)N[C@H](C7=CC(=CC(=C7C8=C(C=CC(=C8)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)O)OC1=C(C=CC(=C1)[C@H](C(=O)N[C@H](CC1=CC(=C(O3)C=C1)Cl)C(=O)N9)N)O)O)O[C@@H]1[C@H]([C@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O)O)NC(=O)C)Cl)CO)O)O | C88H97Cl2N9O33
reactant | water | O | H2O
solvent | hydrogen chloride | 0.5 N, 100 ml | Cl | ClH
solvent | 1,1,1,3,3,3-hexafluoro-2-propanol | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
product | teicoplanin | CC(=O)N[C@H]1[C@H]([C@@H]([C@@H](O[C@H]1OC2=C3C=C4C=C2OC=5C=CC(=CC5Cl)[C@H]([C@H]6C(=O)N[C@@H](C=7C=C(C=C(C7C=8C=C(C=CC8O)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)OC=1C=C(C=CC1O)[C@H](C(=O)N[C@H](CC=1C=CC(=C(C1)Cl)O3)C(=O)N9)N)O)O[C@@H]1[C@H]([C@@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@H]([C@H]([C@@H]([C@@H](O1)CO)O)O)NC(=O)C)CO)O)O | C80H81Cl2N9O33
